US05239083
4-{2-[3-(1-methylindol-5-yl)isocrotonoyl amino]phenoxy}butyric acid (Compound 3)
0.46 g of compound 3 was obtained in a similar manner to those described in the Example 1 and 2 using 2.16 g of ethyl 4-(2-aminophenoxy)butyrate and 1.04 g of 3-(1-methylindol-5-yl)isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 2.16 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-(1-methylindol-5-yl)isocrotonic acid | 1.04 g | CN1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C13H13NO2
product | 4-{2-[3-(1-methylindol-5-yl)isocrotonoyl amino]phenoxy}butyric acid | CN1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C23H24N2O4
